US05576321
Preparation of (2R)-(-)-3-[4-(6-chloro-3-indolyl)-1,2,3,6-tetrahydropyridin-1-yl]-1-(5-quinolinyloxy)-2-propanol
The title compound was prepared in a fashion similar to that described in Example 1 using (R)-5-(oxiranylmethoxy)quinoline (0.495 g, 2.46 mmol) and 6-chloro-2-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole (0.519 g, 2.33 mmol) using ethanol as reaction solvent. Yield 0.840 g (87%) of a tan powder. FDMS m/e=433 (M+ of free base). mp 221°-223° C. α[D]589 =-9.9 (c=1.00, dimethylsulfoxide).

reactant | (R)-5-(oxiranylmethoxy)quinoline | 2.46 mmol, 0.495 g | O1[C@H](C1)COC1=C2C=CC=NC2=CC=C1 | C12H11NO2
reactant | 6-chloro-2-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 2.33 mmol, 0.519 g | ClC1=CC=C2C=C(NC2=C1)C=1CCNCC1 | C13H13ClN2
reactant | ethanol | C(C)O | C2H6O
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | (2R)-(-)-3-[4-(6-chloro-3-indolyl)-1,2,3,6-tetrahydropyridin-1-yl]-1-(5-quinolinyloxy)-2-propanol | ClC1=CC=C2C(=CNC2=C1)C=1CCN(CC1)C[C@H](COC1=C2C=CC=NC2=CC=C1)O | C25H24ClN3O2
